US07838524B2
N-[3-tert-butyl-1-[4-(2-hydroxyethyl)phenyl]-1H-pyrazol-5-yl]-N′-[4-(pyridin-4-yloxy)-phenyl]urea
To a solution of (4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}-carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetic acid (100 mg, 0.21 mmol) in THF (4 mL) was added borane-methyl sulfite complex (0.51 mL, 2M in THF) drop-wise with stirring at room temperature. The resulting reaction mixture was heated at reflux for 2 h, then cooled to room temperature and quenched by the addition of EtOH/1N HCl. The resulting mixture was heated at reflux for 1 h. The mixture was cooled to room temperature and evaporated at reduced pressure, and the residue was dissolved in a mixture of EtOAc and saturated NaHCO3. The organic phase was dried over Na2SO4, concentrated, and purified by MPLC (50:50 hexane/EtOAc). The desired product was obtained as a white solid (50 mg) in 51% yield. 1H-NMR (DMSO-d6) δ 9.12 (s, 1H), 8.39 (m, 3H), 7.48 (d, J=9.0 Hz, 2H), 7.40-7.33 (m, 4H), 7.07 (d, J=8.8 Hz, 2H), 6.85 (m, 2H), 6.34 (s, 1H), 4.69 (t, J=5.1 Hz, 1H), 3.64 (m, 2H), 2.78 (t, J=7.1 Hz, 2H), 1.27 (s, 9H); MS LC-MS [M+H]+=472.2, RT=2.35 min.

reactant | (4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}-carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetic acid | 0.21 mmol, 100 mg | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)CC(=O)O | C27H27N5O4
reactant | borane methyl sulfite | 2M, 0.51 mL | B.S(=O)(OC)[O-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-[3-tert-butyl-1-[4-(2-hydroxyethyl)phenyl]-1H-pyrazol-5-yl]-N′-[4-(pyridin-4-yloxy)-phenyl]urea | 51% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)CCO | C27H29N5O3
